US08044213B2
To a mixture of 0.286 g (2 mmole) of 3-piperidin-1-yl-propan-1-ol, and 2 mL of pyridine was added 0.001 g of 4-dimethylaminopyridine and 0.381 g (2 mmole) of p-toluenesulphonyl chloride. The mixture was stirred at ambient temperature overnight and then concentrated under reduced pressure. The residue was taken up in 20 mL of dichloromethane and washed once with 10 mL of saturated sodium bicarbonate, twice with 10 mL of water, and then brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to give 0.384 g of toluene-4-sulfonic acid 3-piperidin-1-yl-propyl ester as a pink solid.

reactant | 3-piperidin-1-yl-propan-1-ol | 2 mmole, 0.286 g | N1(CCCCC1)CCCO | C8H17NO
reactant | p-toluenesulphonyl chloride | 2 mmole, 0.381 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
catalyst | 4-dimethylaminopyridine | 0.001 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | toluene-4-sulfonic acid 3-piperidin-1-yl-propyl ester | 0.384 g | N1(CCCCC1)CCCOS(=O)(=O)C1=CC=C(C=C1)C | C15H23NO3S
